Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-2.23893642221
[H:1]/[C:2]([O:3][C:4]([H:5])=[C:6][H:12])=[C:11]\[C:7]([H:8])([H:9])[H:10]>>[H:1][c:2]1[o:3][c:4]([H:5])[c:6]([C:7]([H:8])([H:9])[H:10])[c:11]1[H:12],-5.57947934851
[C:1]#[C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]([C:2]([H:4])[C:9]([H:10])([H:11])[O:12][H:13])([H:6])([H:7])[H:8].[C:3]#[C:5],5.25033747677
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1],5.7005768988600005
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:11]([H:12])([H:13])[H:14].[O:9][H:10],4.84501112311
[C:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[C:1]#[C:2][C:4]([H:5])[C:6]#[C:7][H:8].[C:3],6.59686862579
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.612703451530001
[H:1][C:2][O:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](/[H:9])[O:10][H:11]>>[C:5]([H:6])[H:7].[H:1][C:2][O:3]/[C:4]=[C:8](\[H:9])[O:10][H:11],6.67282695794
[H:14].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.91179284625
[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-7.878914311310001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.61081393069
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8],-5.46986144641
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],2.00431728371
[C:3][O:4][C:5]#[C:6][O:7][H:8].[H:1][C:2]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][O:7][H:8],-8.75520871089
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12].[H:5],2.44066197399
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[O:7][O:8],6.4745941056
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],4.23585469214
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.15822323311
[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.375449798319997
[H:1][O:2][C:3]([H:4])[C@:5]12[O:6][C:7]1[C:8]2[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]\[C:8](=[C:7]=[O:6])[H:9],-1.83438989861
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.002267815
[H:1][C:2]#[C:3][C:4][O:5][C:6][O:7][H:8]>>[C:2]#[C:3][C:4][O:5][C:6][O:7][H:8].[H:1],4.22498998569
[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:13][H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14],-3.7415414385400014
[O:1]=[C:2]=[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3][O:4][C:5][H:6],4.57679952128
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.53681352064
[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2][C:10]([H:11])([H:12])[H:13],3.60065786311
[C:1]#[C:2][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:3]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.92135124019
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[H:8]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.6650653440300007
[O:1][C:2][C:3].[O:4]=[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],-1.2405664586
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]([H:3])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],2.8468363847500004
